US07696234B2
4-[3-Fluoro-4-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidine 1-carbonyl)-phenoxymethyl]-N,N-dimethyl-benzamide
The title compound is prepared in a manner substantially analogous to Procedure C using (2-Fluoro-4-hydroxy-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone and 4-chloromethyl-N,N-dimethyl-benzamide [CAS 121083-51-0]. MS (ES+) 454.2

reactant | (2-Fluoro-4-hydroxy-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | FC1=C(C=CC(=C1)O)C(=O)N1[C@@H](CCC1)CN1CCCC1 | C16H21FN2O2
reactant | 4-chloromethyl-N,N-dimethyl-benzamide | ClCC1=CC=C(C(=O)N(C)C)C=C1 | C10H12ClNO
product | 4-[3-Fluoro-4-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidine 1-carbonyl)-phenoxymethyl]-N,N-dimethyl-benzamide | FC=1C=C(OCC2=CC=C(C(=O)N(C)C)C=C2)C=CC1C(=O)N1[C@@H](CCC1)CN1CCCC1 | C26H32FN3O3
